US07011838B2
Using 1.00 g of (4-fluorobenzyl)malononitrile, 15 ml of N,N-di-methylformamide, 0.23 g of sodium hydride (60% in oil), and 1.02 g of 1-bromo-3,3,3-trifluoropropane, and according to the process described in the Production Example 1, there was obtained 0.34 g of 2-(4-fluorobenzyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (16)).

reactant | (4-fluorobenzyl)malononitrile | 1.00 g | FC1=CC=C(CC(C#N)C#N)C=C1 | C10H7FN2
reactant | sodium hydride | 0.23 g | [H-].[Na+]
reactant | 1-bromo-3,3,3-trifluoropropane | 1.02 g | BrCCC(F)(F)F | C3H4BrF3
solvent | N,N-di-methylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-(4-fluorobenzyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.34 g, Yield: 22% | FC1=CC=C(CC(C#N)(C#N)CCC(F)(F)F)C=C1 | C13H10F4N2
